US07307094B2
To a solution of N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-aminophenyl)benzoxazole-4-carboxamide (22 mg, 0.06 mmol) in dichloromethane was added acetic anhydride (10 μL, 0.12 mmol), pyridine (15 μL, 0.18 mmol) and DMAP (1.5 mg, 0.01 mmol). The reaction mixture was stirred at room temperature for 3 h. Acetic anhydride (2 equiv) and pyridine (3 equiv) were re-filled and the reaction was stirred at room temperature for an additional 1.5 h. The mixture was diluted with ethyl acetate (20 mL), and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with ethyl acetate (2×50 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) and then recrystallized from acetonitrile to afford N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-acetylaminophenyl)benzoxazole-4-carboxamide (11 mg, 44%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 9.59-9.58 (m, 1H), 8.17-8.16 (m, 3H), 7.77-7.69 (m, 4H), 7.46-7.43 (m, 1H), 7.39 (t, J=8.0 Hz, 1H), 4.40-4.33 (m, 1H), 2.26 (s, 3H), 3.58-3.53 (m, 1H), 3.19-2.88 (m, 3H), 2.13-1.70 (m, 6H); MS (ESI+) m/z 405 (M+H); HPLC 97.3% (AUC), tR=13.85 min.

reactant | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-aminophenyl)benzoxazole-4-carboxamide | 0.06 mmol, 22 mg | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)N | C21H22N4O2
reactant | acetic anhydride | 0.12 mmol, 10 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.18 mmol, 15 μL | N1=CC=CC=C1 | C5H5N
reactant | Acetic anhydride | 2 equiv | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 3 equiv | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMAP | 0.01 mmol, 1.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-acetylaminophenyl)benzoxazole-4-carboxamide | 11 mg, 44% | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)NC(C)=O | C23H24N4O3
